US04956359
N-(2-Propenyl)-3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide
A solution of 18.9 g (0.05 mole) of crude 3-[3-(trifluoromethyl)phenoxy]azetidine (contains an equal molar amount of diphenylmethane) in 100 ml of isopropyl ether was stirred under nitrogen while 4.16 g (0.05 mole) of 2-propenyl isocyanate was slowly added. The reaction mixture which was somewhat turbid, cleared and after 1 hr a fine crystalline precipitate began to form. After stirring for 18 hrs, the product was removed by filtration, washed with fresh isopropyl ether and air dried to yield 9.5 g of white crystals, m.p. 75°-76° C.

reactant | 3-[3-(trifluoromethyl)phenoxy]azetidine | 0.05 mole, 18.9 g | FC(C=1C=C(OC2CNC2)C=CC1)(F)F | C10H10F3NO
reactant | diphenylmethane | C1(=CC=CC=C1)CC1=CC=CC=C1 | C13H12
reactant | 2-propenyl isocyanate | 0.05 mole, 4.16 g | C(C=C)N=C=O | C4H5NO
solvent | isopropyl ether | 100 ml | C(C)(C)OC(C)C | C6H14O
product | N-(2-Propenyl)-3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide | 9.5 g | C(C=C)NC(=O)N1CC(C1)OC1=CC(=CC=C1)C(F)(F)F | C14H15F3N2O2
